US08168794B2
To a solution of 5-methylpyridin-3-ylcarbamate (3 g, 14 mmol) in glacial acetic Acid (50 mL) was added 5% Rhodium on active carbon (0.5 g) and Platinum(IV) oxide (0.5 g) in the hydrogenation steel bomb. The mixture was sealed and hydrogenated at 200 psi and 70° C. for 48 hours. The mixture was filtered through Celite and concentrated to give cis-(+/−)-tert-butyl 5-methylpiperidin-3-ylcarbamate. LCMS (m/z): 215.1 (MH+).

reactant | 5-methylpyridin-3-ylcarbamate | 14 mmol, 3 g | CC=1C=C(C=NC1)NC([O-])=O
solvent | acetic Acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Rhodium | [Rh] | Rh
catalyst | Platinum(IV) oxide | 0.5 g | [Pt](=O)=O
product | cis-(+/−)-tert-butyl 5-methylpiperidin-3-ylcarbamate | C[C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O | C11H22N2O2
